US03931200
4 ((3,6-dichloro-2-pyridinyl)methoxy)benzenamine
N-(4-((3,6-Dichloro-2-pyridinyl)methoxy)phenyl)-acetamide (30.27 grams; 0.097 mole) was mixed with a 270 ml. solution of boron trifluoride-methanol (1 gram per 10 ml.) and the resulting reaction mixture refluxed for a period of 4 1/2 hours. The reaction mixture was then diluted and cooled with ice water to a temperature of between about 0° to about 10°C. Concentrated ammonium hydroxide was added until the reaction mixture was basic. The reaction mixture was then extracted with portions of methylene chloride, the extracts combined and the solvent removed by evaporation. The residue thus obtained was extracted with five 500 ml. portions of hexane. The crystalline material which precipitated from the hexane mixture upon cooling was recovered by filtration. As a result of these operations, the desired 4-((3,6-dichloro-2-pyridinyl)-methoxy)benzenamine compound was recovered as a light yellow crystalline solid having a melting point of 74°-75°C.

reactant | N-(4-((3,6-Dichloro-2-pyridinyl)methoxy)phenyl)-acetamide | 0.097 mole, 30.27 grams | ClC=1C(=NC(=CC1)Cl)COC1=CC=C(C=C1)NC(C)=O | C14H12Cl2N2O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | boron trifluoride methanol | 10 ml, 1 gram | B(F)(F)F.CO
product | ((3,6-dichloro-2-pyridinyl)methoxy)benzenamine | ClC=1C(=NC(=CC1)Cl)COC1=C(C=CC=C1)N | C12H10Cl2N2O
